Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
increased lethargy, UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with autoimmune hepatitis (with evidence of cirrhosis on 
most
recent ultrasound), type I diabetes, and gastoparesis and
multiple recent hospitalizations for UTI who presents with
fatigue, poor PO intake, and positive urine culture. Pt was most
recently admitted from ___ - ___ for AMS and ___, related
to poor PO intake and hepatic encephalopathy, as well as
opioid-induced constipation. Was given fluid and aggressive 
bowel
regimen. Has been at home with ___ care from ___ and home health
aides, as well as husband. Had had increasing fatigue and cloudy
urine - urine sample was collected by ___ on ___ and is now
growing ENTEROBACTER CLOACAE, resistant to cephalosporins,
macrobid, and Bactrim. Pt was called by PCP (at ___) about 
result
of urine culture - husband agreed to bring pt in given lethargy
and likely need for IV antibiotics.

Pertinent ED course: Afebrile, HDS. Labs were notable for H/H
6.6/20.3, Na 130, Cr 3.0, lactate 2.9, grossly positive UA. 
Blood
and urine cultures were collected. Pt was given 500cc NS and IV
cipro. Seen by hepatology fellow, who recommended starting
octreotide gtt, IV PPI BID, giving 1U pRBCs, and making pt NPO
for possible EGD in AM.

On arrival to the floor, pt reports that she is in no pain, but
is feeling tired and without any appetite. She denies CP, SOB,
abdominal pain, flank pain, dysuria, fever/chills.
 
Past Medical History:
- H/o DVT 
- H/o stroke - L posterior limb of internal capsule and lacunar
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
- CKD 
- Cirrhosis (autoimmune presumably secondary to statin use)
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___.
Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=================================
VS: T 98.1, BP 166/71, HR 65, RR 24, SpO2 93/RA 
GENERAL:  comfortable-appearing, sleeping in bed, easily
arousable to voice. NAD.
HEENT: dry MM. R pupil 4mm, L pupil 2mm. Reactive to light.
CARDIAC: RRR, S1+S2, no rubs, gallops, ___ systolic murmur
loudest at RUSB
PULMONARY: CTAB (anteriorly), no W/R/C
ABDOMEN: non-distended, soft, non-tender
GENITOURINARY: Foley draining clear yellow urine
EXTREMITIES: RLE above knee amputation 
NEUROLOGIC: left facial droop, moves all four extremities
purposefully but baseline LLE weakness

DISCHARGE PHYSICAL EXAMINATION:
================================
VS: 97.4F BP 123/67 HR 58 RR 21 98% on Ra 
GENERAL: Resting comfortably in bed, NAD, pleasant
HEENT: NCAT, dry MM, no teeth, R pupil 4mm, L pupil 2 mm,
reactive to light
NECK: Supple
HEART: RRR with normal S1 and S2. No murmurs, rubs, or gallops.
LUNGS: CTAB anteriorly
ABDOMEN: Soft, non-tender, non-distended. Normoactive BS. 
EXTREMITIES: LLE Warm and well perfused, no ___ edema, R AKA
GU: Foley in place
NEURO: AOx3, moves all extremities spontaneously, does not
cooperate with exam to assess for asterixis
 
Pertinent Results:
ADMISSION LABS:
================
___ 05:00PM   WBC-7.0 RBC-2.18* HGB-6.6* HCT-20.3* MCV-93 
MCH-30.3 MCHC-32.5 RDW-15.9* RDWSD-54.4*
___ 05:00PM   NEUTS-58.4 ___ MONOS-12.1 EOS-3.6 
BASOS-0.3 IM ___ AbsNeut-4.11# AbsLymp-1.76 AbsMono-0.85* 
AbsEos-0.25 AbsBaso-0.02
___ 05:00PM   GLUCOSE-260* UREA N-43* CREAT-3.0* 
SODIUM-130* POTASSIUM-4.1 CHLORIDE-94* TOTAL CO2-23 ANION GAP-13
___ 05:00PM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-142* TOT 
BILI-0.2
___ 05:00PM   ALBUMIN-2.1*
___ 05:00PM   PLT COUNT-310
___ 05:12PM   GLUCOSE-242* LACTATE-2.9* NA+-127* K+-3.7 
CL--90*
___ 09:47PM   LACTATE-1.6
___ 05:53PM URINE  COLOR-Yellow APPEAR-Cloudy* SP 
___
___ 05:53PM URINE  BLOOD-SM* NITRITE-POS* PROTEIN-100* 
GLUCOSE-1000* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 05:53PM URINE  RBC-34* WBC->182* BACTERIA-MANY* 
YEAST-RARE* EPI-0
___ 05:53PM URINE  CA OXAL-OCC*
___ 05:53PM URINE  WBCCLUMP-MANY* MUCOUS-RARE*

DISCHARGE LABS:
================
No labs at discharge

PERTINENT LABS:
================
___ 01:51PM BLOOD WBC-8.5 RBC-2.06* Hgb-6.3* Hct-19.1* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-15.9* RDWSD-54.6* Plt ___
___ 01:51PM BLOOD calTIBC-79* ___ Ferritn-423* 
TRF-61*

PERTINENT STUDIES:
==================
None

 
Brief Hospital Course:
Ms. ___ ___ with history of Child's Class B cirrhosis thought 
secondary to autoimmune hepatitis decompensated by mild 
encephalopathy and possible upper GI bleed (MELD 24 on 
admission), type I diabetes complicated by gastoparesis, and 
multiple recent hospitalizations for UTI who presents with 
fatigue, poor PO intake, and positive urine culture. 

ACTIVE ISSUES 
==============
#CAUTI: Given chronic Foley, decision was made to treat for 
complicated UTI for 7 days with ciprofloxacin. Her Foley was 
changed on ___. She will follow up with uro/gyn on ___ 
for this. Enterobacter cloacae growing in urine cultures from 
___ and ___ that is sensitive to Cipro. Transitioned to 
PO Cipro on ___. Patient was hemodynamically stable 
throughout the hospitalization with somnolence at times, but 
alert and oriented x 3 at discharge. 

#NORMOCYTIC ANEMIA/?UGIB: H/H 6.6/20.3 on admission, compared to 
7.5/23.9 on ___. Stool was guiaic negative in ED. Initial 
concern for possible GI bleeding given her history of cirrhosis, 
but the patient and family declined EGD in favor of going back 
home with hospice services. The patient received two units of 
pRBC. The phlebotomy team was unable to draw labs, and 
eventually the patient declined labs as well, which we honored. 
She did have a bowel movement with no signs of bleeding on ___. 
She will be discharged home with home services (not quite 
hospice level services) understanding the risks of not getting 
an EGD to screen for possible bleeding source. She was otherwise 
stable on discharge.

#DM1: Hypoglycemic to 33 on ___ AM and 23 on ___ AM. 
___ was after receiving home lantus 6 untis the night prior. 
Nighttime lantus was decreased to 4 units that night but she 
again developed hypoglycemia to 23 the next morning. She was 
also receiving home lantus 2 units in the morning each day. Both 
episodes resolved with po intake. She declined IV placement for 
dextrose. ___ was consulted prior to discharge and 
recommended: Lantus 4 units in the AM, SSI starting at 2 units 
and increasing by 1 for every 50 above 150. 

# CKD: Cr 3.0 on admission, which appears stable as compared to 
her creatinine at the time of her last discharge.

#AUTOIMMUNE HEPATITIS: with recent ultrasound findings 
consistent with cirrhosis with liver biopsy in ___. Reports in 
electronic health record that patient was previously treated 
with steroids. There was a discussion about need for EGD as 
above, but patient and family declined in favor of quality of 
life measures and returning home with hospice.

#Hypertension: Occasionally elevated in the hospital. She was 
restarted on her home carvedilol, clonidine, amlodipine, 
hydralazine, and Imdur, but lisinopril was held in setting of 
creatinine now stable at 3.0. Blood pressure responded well to 
home BP meds. She was discharged on her home regimen. 

#GOALS OF CARE: During previous admission, from discussion with 
patient, husband (proxy), palliative care, and SW, it was 
determined that frequent re-admissions do not align with her 
preferences and generalized aversion to hospitalization. She 
ultimately prefers to remain at home with adequate analgesia for 
her chronic left leg/lumbar back pain. Based on conversation on 
___ in conjunction with husband, son, and PACT RN ___ 
___, patient desires to be at home with better quality of 
life. Family understands that they can, in conversation with Dr. 
___, decide to bring her into the hospital if she is ill, but no 
further interventions will be done at this time given that ___ 
is declining any more aggressive measures. She will go home with 
previous home services, which are not quite hospice level, with 
plan to maximize comfort. 

CHRONIC/STABLE PROBLEMS: 
=========================
#BACK PAIN/LEFT LEG PAIN: Continue Oxycodone 5 mg Q8H PRN 

Code: DNR/DNI. MOLST currently states "Do not hospitalize", but 
husband decided to bring her in this time and will likely still 
bring her in in the future if there are urgent needs.
Contact: Son ___ ___ 

___ Issues:
==========================
[] Administer cipro as prescribed through ___, then restart 
Nitrofurantoin suppressive therapy.
[] If patient experiences confusion, weakness, consider checking 
UA/UCx and re-treating for UTI.
[] If any signs of bleeding, contact Dr. ___. 
Patient will decide at that time if she desires re-admission.
[] OK to give an extra dose of 5 mg oxycodone if in pain as long 
as patient not somnolent
[] patient's finger stick glucose dipped into the 20's-30's each 
morning while in the hospital. Reduced insulin to 4 units 
glargine in the morning plus mealtime-only gentle sliding scale. 
Please monitor finger sticks 4 times per day and contact Dr. ___ 
with any issues.
[] patient's finger stick glucose dipped into the 20's-30's each 
morning while in the hospital. Reduced insulin to 4 units 
glargine in the morning plus mealtime-only gentle sliding scale. 
Please monitor finger sticks 4 times per day and contact Dr. ___ 
with any issues.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
5. BuPROPion XL (Once Daily) 150 mg PO DAILY 
6. Carvedilol 12.5 mg PO BID 
7. CloNIDine 0.2 mg PO BID 
8. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
9. Lactulose 30 mL PO TID constipation 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lidocaine 5% Ointment 1 Appl TP BID 
12. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
13. Polyethylene Glycol 17 g PO DAILY constipation 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
16. Aspirin 81 mg PO DAILY 
17. Clopidogrel 75 mg PO DAILY 
18. HydrALAZINE 100 mg PO Q8H 
19. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
20. Pantoprazole 40 mg PO Q24H 
21. Docusate Sodium 100 mg PO BID 
22. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
23. Senna 8.6 mg PO BID 
24. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
25. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
26. travoprost 0.004 % ophthalmic QPM 
27. Metoclopramide 5 mg PO QIDACHS 
28. Nitrofurantoin (Macrodantin) 100 mg PO DAILY 
29. Glargine 2 Units Breakfast
Glargine 6 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q24H 
take one dose on ___, one dose on ___, then STOP 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0 
2.  Glargine 4 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
3.  Acetaminophen 650 mg PO Q6H  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
5.  amLODIPine 10 mg PO DAILY  
6.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
7.  Aspirin 81 mg PO DAILY  
8.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
9.  Carvedilol 12.5 mg PO BID  
10.  CloNIDine 0.2 mg PO BID  
11.  Clopidogrel 75 mg PO DAILY  
12.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
13.  Docusate Sodium 100 mg PO BID  
14.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
15.  HydrALAZINE 100 mg PO Q8H  
16.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
17.  Lactulose 30 mL PO TID constipation  
18.  Levothyroxine Sodium 88 mcg PO DAILY  
19.  Lidocaine 5% Ointment 1 Appl TP BID  
20.  Metoclopramide 5 mg PO QIDACHS  
21.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
22.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
23.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
 
24.  Pantoprazole 40 mg PO Q24H  
25.  Polyethylene Glycol 17 g PO DAILY constipation  
26.  Senna 8.6 mg PO BID  
27.  Tiotropium Bromide 1 CAP IH DAILY  
28.  travoprost 0.004 % ophthalmic QPM  
29.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY  
30. HELD- Nitrofurantoin (Macrodantin) 100 mg PO DAILY  This 
medication was held. Do not restart Nitrofurantoin (Macrodantin) 
until done with ciprofloxacin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: normocytic anemia, Urinary tract infection
Secondary: Hospice care, hypertension, acute on chronic kidney 
injury, type I diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent. A&Ox3 (name, place, date)
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were feeling weak 
and confused at home. We found that you had a urinary tract 
infection so we started you on antibiotics for this which you 
will continue until ___. You were also found to have low 
blood counts (anemia) for which we gave you two units of blood. 
You decided that you preferred to return home rather than 
aggressively looking into the low blood counts and decided you 
did not want any procedures like an endoscopy for this, so we 
discharged you back home with services to ensure that you 
preserve your quality of life over quantity.

We wish you all the best,

Sincerely,

Your care team at ___ 
 
Followup Instructions:
___